US05219868
A mixture of 3.00 g of 1-(4-acetylphenyliminomethyl)-2-nitroiminoimidazolidine, 2.12 g of 2-chloro-5-chloromethylpyridine, 3.01 g of potassium carbonate, and 7 ml of DMSO was agitated at 60° C. for 1 hour. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried and evaporated to obtain an oily residue. To the resultant oily residue was added ethyl acetate, followed by separation of the resultant crystals by filtration and drying to give 1.73 g of 1-(2-chloropyridine-5-ylmethyl)-2-nitroimino-3-(4-acetylphenyliminomethyl)imidazolidine.

reactant | 1-(4-acetylphenyliminomethyl)-2-nitroiminoimidazolidine | 3.00 g | C(C)(=O)C1=CC=C(C=C1)N=CN1C(NCC1)=N[N+](=O)[O-] | C12H13N5O3
reactant | 2-chloro-5-chloromethylpyridine | 2.12 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 3.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 7 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(2-chloropyridine-5-ylmethyl)-2-nitroimino-3-(4-acetylphenyliminomethyl)imidazolidine | 1.73 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=NC1=CC=C(C=C1)C(C)=O)=N[N+](=O)[O-] | C18H17ClN6O3
